US07314849B2
In an oven dried, nitrogen flushed 100 mL 3 neck flask equipped with a condenser and a magnetic stirbar was dissolved methyl-4-acetamido-3,6-dichloropyridine-2-carboxylate (1.2 g, 4.6 mmol) and (2-fluoro-3-methoxy-4-trifluoromethylphenyl)trimethyl stannane (1.7 g, 4.6 mmol) in acetonitrile (15 mL) and the resulting solution was de-aerated with a purge of nitrogen for 15 minutes. Cesium fluoride (2.1 g, 13.9 mmol), 1,4-bis(diphenylphosphino)butane (0.2 g, 0.46 mmol) and palladium acetate (0.1 g, 0.46 mmol) were added and the head space of the reaction was purged with nitrogen as the reaction was heated to reflux with stirring. The reaction was then stirred under an open nitrogen atmosphere for 5 hours by which time TLC (hexane:ethyl acetate/1:2) indicated complete consumption of starting material. The cooled reaction was filtered through celite with ethyl acetate and the filtrate concentrated and purified by flash silica gel chromatography (hexanes:ethyl acetate/2:1) to give 4-acetylamino-3-chloro-6-(2-fluoro-3-methoxy-4-trifluoromethylphenyl)pyridine-2-carboxylic acid methyl ester (0.19 g, 0.46 mmol) as an oil: 1H NMR (CDCl3): δ 9.03 (d, 1H), 8.02 (bs, 1H), 7.68 (bt, 1H), 7.42 (bd, 1H), 4.03 (d, 3H), 4.01 (s, 3H), 2.33 (s, 3H).

reactant | methyl-4-acetamido-3,6-dichloropyridine-2-carboxylate | 4.6 mmol, 1.2 g | COC(=O)C1=NC(=CC(=C1Cl)NC(C)=O)Cl | C9H8Cl2N2O3
reactant | (2-fluoro-3-methoxy-4-trifluoromethylphenyl)trimethyl stannane | 4.6 mmol, 1.7 g | FC1=C(C=CC(=C1OC)C(F)(F)F)[Sn](C)(C)C
reactant | Cesium fluoride | 13.9 mmol, 2.1 g | [F-].[Cs+]
reactant | 1,4-bis(diphenylphosphino)butane | 0.46 mmol, 0.2 g | C1(=CC=CC=C1)P(CCCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C28H28P2
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
catalyst | palladium acetate | 0.46 mmol, 0.1 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-acetylamino-3-chloro-6-(2-fluoro-3-methoxy-4-trifluoromethylphenyl)pyridine-2-carboxylic acid methyl ester | 0.46 mmol, 0.19 g | COC(=O)C1=NC(=CC(=C1Cl)NC(C)=O)C1=C(C(=C(C=C1)C(F)(F)F)OC)F | C17H13ClF4N2O4
